US06140270
Preparation of 3-Isopropyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
Isopropylamine (1.2 g, 20.3 mmol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU, 6 mL) are added to a solution of 2-dimethylamino-4-trifluoromethyl-6H-1,3-oxazin-6-one (4.0 g, 19.2 mmol) in xylene (34 mL). The resultant reaction mixture is held at 100° C. for 3 hours, cooled, washed with 5 wt. % HCl (40 mL), and extracted with ethyl acetate. The combined organic extracts are concentrated and triturated with heptane. The solids are filtered and dried to give the title product as a yellow powder (2.3 g, 54% yield, mp 127°-129° C.) which is identified by 1H NMR (DMSO-d6) δ 6.11 (1H, s), 4.96 (1H, sp), 1.35 (6H, d) ; and 19F NMR δ -68.9 (s).

reactant | Isopropylamine | 20.3 mmol, 1.2 g | C(C)(C)N | C3H9N
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-dimethylamino-4-trifluoromethyl-6H-1,3-oxazin-6-one | 19.2 mmol, 4.0 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
solvent | xylene | 34 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Isopropyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 2.3 g, 54% yield | C(C)(C)N1C(NC(=CC1=O)C(F)(F)F)=O | C8H9F3N2O2
